US07902357B2
To a solution of 7.4 g of crude 4-(2-hydroxyethyl)-3-(4-propylheptyl)morpholine in 22 ml of methyl iso-butyl ketone at room temperature concentrated hydrochloric acid (2.7g, 1 eq.) was added. The solution was concentrated until dry at 60° C. The oil was dissolved again in 21 ml of methyl iso-butyl ketone the solution was seeded and stirred for 2 hours at 0° C. The white solid was filtered, washed with 20 ml of cold methyl iso-butyl ketone and dried to obtain 5.9 g of 4-(2-hydroxyethyl)-3-(4-propylheptyl) morpholine hydrochloride (delmopinol hydrochloride). 1 H-NMR (CDCl3, 400 MHz),( d ppm): 0.88 (6H, m, H15), 1.2-1.4 (13H, m), 1.8-2.0 (2H, m), 2.8-3.4 (5H, m), 3.4-4.4 (6H, m). 13C-NMR (CDCl3,400 MHz),( d ppm): 14.26 (C15),19.47,19.52 (C14),22.87 (C10), 27.11 (C9), 33.25 (C11), 35.54,35.62 (C13), 36.59 (C12), 49.25 (C5), 53.20 (C7), 55.93 (C3), 57.08, 59.89 (C8), 63.1, 63.2, 65.0 (C6), 67.7 (C2).

reactant | 4-(2-hydroxyethyl)-3-(4-propylheptyl)morpholine | 7.4 g | OCCN1C(COCC1)CCCC(CCC)CCC | C16H33NO2
reactant | hydrochloric acid | 2.7g, 1 eq. | Cl | ClH
solvent | methyl iso-butyl ketone | 22 ml | C(C(C)C)C(=O)C | C6H12O
product | 4-(2-hydroxyethyl)-3-(4-propylheptyl) morpholine hydrochloride | 5.9 g | Cl.OCCN1C(COCC1)CCCC(CCC)CCC | InChI=1S/C16H33NO2.ClH/c1-3-6-15(7-4-2)8-5-9-16-14-19-13-11-17(16)10-12-18;/h15-16,18H,3-14H2,1-2H3;1H
